US08258144B2
A mixture of 2-chloro-N-(3-aminosulfonyl-phenyl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (100 mg, 0.21 mmol), N-(4-aminophenyl)-N-methylacetamide (100 mg, 0.61 mmol) and trimethylsilyl chloride (0.050 mL, 0.40 mmol) in nBuOH (2 mL) and dioxane (2 mL) was heated at 110° C. for 4 h. More trimethylsilyl chloride (0.100 mL, 0.79 mmol) was added. The mixture was stirred at 110° C. for another 72 h. It was then purified by HPLC to give N-(4-(4-(3-aminosulfonyl-phenylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)-N-methylacetamide as a solid (20 mg).

reactant | 2-chloro-N-(3-aminosulfonyl-phenyl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.21 mmol, 100 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)NC2=CC(=CC=C2)S(=O)(=O)N | C19H16ClN5O4S2
reactant | N-(4-aminophenyl)-N-methylacetamide | 0.61 mmol, 100 mg | NC1=CC=C(C=C1)N(C(C)=O)C | C9H12N2O
reactant | trimethylsilyl chloride | 0.40 mmol, 0.050 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | trimethylsilyl chloride | 0.79 mmol, 0.100 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 2 mL | C(CCC)O | C4H10O
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-(4-(4-(3-aminosulfonyl-phenylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)-N-methylacetamide | 20 mg | NS(=O)(=O)C=1C=C(C=CC1)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N(C(C)=O)C)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C28H27N7O5S2
